US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (2,2-diphenyl-ethyl)-amide
4-[4-(2-Aminoethyl)anilino]-N-(2,2-diphenylethyl)-1-piperidinecarboxamide formate (0.60 g, 1.2 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.496 g, 1.2 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.20 g, 0.236 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(2,2-diphenylethyl)-1-piperidinecarboxamide formate | 1.2 mmol, 0.60 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.2 mmol, 0.496 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid (2,2-diphenyl-ethyl)-amide | 0.236 mmol, 0.20 g | C1(=CC=CC=C1)C(CNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O)C1=CC=CC=C1 | C37H44N4O4
